US06458772B1
a) Synthesis of 3-bromo-2-hydroxy-1-(N-CBz-L-valyloxy)-propane
To a stirred solution of 3-bromo-1,2-propanediol (10.85 g, 70 mmole), N-CBz-L-valine (10.05 g, 40 mmole) and DMAP (0.49 g, 4 mmol) in 250 ml dichloromethane was added dropwise a solution of DCC (9.1 g, 44 mmol) in 50 ml dichloromethane at about 10° C. The mixture was stirred for two days at room temperature and then cooled to 5° C. The urethane was filtered and the solution was evaporated under reduced pressure. The product was isolated by silica gel column chromatography. Yield: 8 g

reactant | 3-bromo-1,2-propanediol | 70 mmole, 10.85 g | BrCC(CO)O | C3H7BrO2
reactant | N-CBz-L-valine | 40 mmole, 10.05 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | DCC | 44 mmol, 9.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 4 mmol, 0.49 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-bromo-2-hydroxy-1-(N-CBz-L-valyloxy)-propane | BrCC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)O | C16H22BrNO5
